US05439954
50 g of 1,2,3-trimethylbenzene (Aldrich Chemical Co., 90+% pure) and 160 mL of acetic anhydride are placed in a 1 L flask under positive nitrogen and chilled at 3° C. in an ice-bath. 462 mL of boron trifluoride acetic acid is added while maintaining the temperature below 5° C. The reaction mixture is stirred via mechanical stirrer for two hours. The reaction mixture is warmed to room temperature and stirred for two hours. The reaction mixture is heated to 65° C. for 20 hours followed by cooling to room temperature. The reaction mixture is poured into a solution containing 900 mL of water and 208 g of sodium acetate anhydrous. (It is important to add the reaction solution to the sodium acetate.) This mixture is heated to reflux for 30 minutes, followed by cooling to room temperature. This mixture is extracted with 800 mL of methylene chloride. The resulting water layer is extracted with 200 mL of methylene chloride. The combined methylene chloride layers are dried over 146 g of sodium sulfate. The dark brown organic fraction is acidic pH and smells strongly of acetic acid. The liquid is transferred to a 4 L separatory funnel. Saturated sodium bicarbonate (aq) is added 100 mL at a time (a total of 2100 mL is added) to neutralize the sample. Addition of the sodium bicarbonate is done slowly because the sample foams and much gas evolves in the neutralization process. The mixture is filtered through a cake of sodium sulfate (anhydrous) and is evaporated to give 150 g of a very dark brown viscous liquid. This material is distilled, 150° C. and 0.01 mm Hg, to yield 24.3 g of 1-(2',3',4'-trimethylphenyl)-1,3-butanedione. This material is distilled again, at 0.01 mm Hg using a mirrored column and a receiver cow to collect fractions. A total of four fractions are collected with a total weight of 15.53 g. All fractions are green in color. Results of this distillation are:

reactant | 1,2,3-trimethylbenzene | 50 g | CC1=C(C(=CC=C1)C)C | C9H12
reactant | acetic anhydride | 160 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | boron trifluoride acetic acid | 462 mL | C(C)(=O)O.B(F)(F)F
reactant | sodium acetate anhydrous | 208 g | CC(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 900 mL | O | H2O
product | 1-(2',3',4'-trimethylphenyl)-1,3-butanedione | 24.3 g | CC1=C(C=CC(=C1C)C)C(CC(C)=O)=O | C13H16O2
